US07504389B2
Commercially available 4-iodo-3-nitrotoluene was reacted with diethyl bromodifluoromethylphosphonate under Cd coupling conditions using Example 25 to yield diethyl (4-methyl-2-nitrophenyl)difluoromethylphosphonate. The diethyl (4-methyl-2-nitrophenyl)difluoromethylphosphonate (500 mg, 1.55 mmol) was dissolved in EtOAc (10 mL) and EtOH (10 mL). Five percent Pd-C (approximately 20 mg) was added and the mixture placed under H2 (1 atm.) and stirred at room temperature overnight. The mixture was then filtered and concentrated in vacuo to give diethyl(4-methyl-2-aminophenyl)difluoromethylphosphonate. The diethyl (4-methyl-2-amino-phenyl)difluoromethylphosphonate was converted to diethyl (2-iodo-4-methylphenyl)-difluoromethylphosphonate using Example 86. Compound 95 was synthesized from this corresponding diethyl phosphonate using procedures similar to those of Example 40. MS (ES-): m/z 347.1 (M−H). 1H NMR: (CD3OD, 400 MHz) δ 7.90 (s, 1H), 7.49 (dd, J=0.8, 8.2, 1H), 7.27 (d, J=8.2, 1H), 2.31 (s, 3H).

reactant | 4-iodo-3-nitrotoluene | IC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6INO2
reactant | diethyl bromodifluoromethylphosphonate | BrC(F)(F)P(OCC)(OCC)=O | C5H10BrF2O3P
product | diethyl (4-methyl-2-nitrophenyl)difluoromethylphosphonate | CC1=CC(=C(C=C1)C(F)(F)P(OCC)(OCC)=O)[N+](=O)[O-] | C12H16F2NO5P
